* Block 05: UV/OV — PDK resistor verification (FF -40C)
.title TB_UVOV_PDK_FF_M40

.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.param sky130_fd_pr__res_xhigh_po__var_mult = -0.025
.param sky130_fd_pr__res_high_po__var_mult = 0
.param sky130_fd_pr__res_high_po__var = 0

.param sky130_fd_pr__nfet_01v8__toxe_slope = 0
.param sky130_fd_pr__nfet_01v8__voff_slope = 0
.param sky130_fd_pr__nfet_01v8__vth0_slope = 0
.param sky130_fd_pr__nfet_01v8__vth0_slope1 = 0
.param sky130_fd_pr__nfet_01v8__nfactor_slope = 0
.param sky130_fd_pr__pfet_01v8__nfactor_slope = 0
.param sky130_fd_pr__pfet_01v8__nfactor_slope1 = 0
.param sky130_fd_pr__pfet_01v8__toxe_slope = 0
.param sky130_fd_pr__pfet_01v8__toxe_slope1 = 0
.param sky130_fd_pr__pfet_01v8__voff_slope = 0
.param sky130_fd_pr__pfet_01v8__voff_slope1 = 0
.param sky130_fd_pr__pfet_01v8__vth0_slope = 0
.param sky130_fd_pr__pfet_01v8__vth0_slope1 = 0
.param sky130_fd_pr__pfet_01v8__ku0_diff = 0
.param sky130_fd_pr__pfet_01v8__kvsat_diff = 0
.param sky130_fd_pr__pfet_01v8__kvth0_diff = 0
.param sky130_fd_pr__pfet_01v8__lku0_diff = 0
.param sky130_fd_pr__pfet_01v8__lkvth0_diff = 0
.param sky130_fd_pr__pfet_01v8__wku0_diff = 0
.param sky130_fd_pr__pfet_01v8__wkvth0_diff = 0
.param sky130_fd_pr__pfet_01v8__wlod_diff = 0

.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__ff.corner.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__ff.corner.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__res_xhigh_po.model.spice"

.include "design.cir"

.option reltol=1e-4 abstol=1e-12 gmin=1e-12
.temp -40

Vsvdd svdd 0 DC 2.2
Vavbg avbg 0 DC 1.226
Ven en 0 DC 2.2
Vpvdd pvdd 0 PWL(0 0 100u 7.0 200u 0)

XUV pvdd avbg uv_flag svdd 0 en uv_comparator
XOV pvdd avbg ov_flag svdd 0 en ov_comparator
Cuv uv_flag 0 1p
Cov ov_flag 0 1p

.tran 0.1u 200u

.control
run
echo "=== UV/OV PDK RESISTOR TRIP POINT TEST (FF -40C) ==="
meas tran uv_deassert find v(pvdd) when v(uv_flag) = 1.1 fall=1
meas tran uv_assert find v(pvdd) when v(uv_flag) = 1.1 rise=last
meas tran ov_assert find v(pvdd) when v(ov_flag) = 1.1 rise=1
meas tran ov_deassert find v(pvdd) when v(ov_flag) = 1.1 fall=last
echo ""
print uv_deassert uv_assert ov_assert ov_deassert
quit
.endc
.end
