* Block 07: Zener Clamp — TT -40C
.title TB_CLAMP_TTM40

.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po

.lib "../sky130.lib.spice" tt
.temp -40

.include "design.cir"

XDUT pvdd 0 ibias zener_clamp
Vpvdd pvdd 0 DC 0
Iibias 0 ibias 1u

.option method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4
.dc Vpvdd 0 10 0.01

.control
run
echo "=== TT -40C ==="
let ipvdd = -i(Vpvdd)
meas dc onset_10u find v(pvdd) when ipvdd=10u rise=1
echo "onset_10uA: $&onset_10u"
meas dc onset_1m find v(pvdd) when ipvdd=1m rise=1
echo "onset_1mA: $&onset_1m"
quit
.endc
.end
